US06316444B1
Step B: (S,S)-2-[1-(1-(Benzyloxycarbonyl)-4-(N-naphth-1-yl-carbamoyl)piperazine-2-yl)-ethylamino]-4-[5-(pyridin-4-yl)benzimidazol-1-yl]pyrimidine
The title compound was prepared from (S,S)-2-[1-(1-(benzyloxycarbonyl)-4-(tert-butyloxycarbonyl)piperazine-2-yl)-ethylamino]-4-[5-(pyridine-4-yl)benzimidazol-1-yl]pyrimidine (72 m,) and naphthyl isocyanate (23 mg) according to the procedure described in EXAMPLE 14, Step F. Mass spectrum (ESI) 704.2 (M+1).

reactant | (S,S)-2-[1-(1-(benzyloxycarbonyl)-4-(tert-butyloxycarbonyl)piperazine-2-yl)-ethylamino]-4-[5-(pyridine-4-yl)benzimidazol-1-yl]pyrimidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CN(CC1)C(=O)OC(C)(C)C)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C2=CC=NC=C2 | C35H38N8O4
reactant | naphthyl isocyanate | 23 mg | C1(=CC=CC2=CC=CC=C12)N=C=O | C11H7NO
product | (S,S)-2-[1-(1-(Benzyloxycarbonyl)-4-(N-naphth-1-yl-carbamoyl)piperazine-2-yl)-ethylamino]-4-[5-(pyridin-4-yl)benzimidazol-1-yl]pyrimidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CN(CC1)C(NC1=CC=CC2=CC=CC=C12)=O)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C2=CC=NC=C2 | C41H37N9O3
